US07399867B2
Place 6-methoxy-1-tetralone (1 eq.), 4-bromothioanisole (2.5 eq.), palladium acetate (0.01 eq.), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (0.02 eq.) and toluene in a 3 neck flask equipped with a mechanical stirrer, reflux condenser, nitrogen purge and a temperature probe. Add sodium tert-butoxide (4 eq.) and heat the slurry to reflux. After about 2-4 hours, cool the reaction to room temperature and add 3M aqueous HCl along with tetrahydrofuran. Stir the biphasic reaction mixture for 30 minutes before filtration and separation of the layers. Concentrate the organic layer to isolate 6-methoxy-2-(4-methylthiophenyl)naphthalene-1-ol by filtration.

reactant | 6-methoxy-1-tetralone | 1 eq. | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | 4-bromothioanisole | 2.5 eq. | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.02 eq. | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | sodium tert-butoxide | 4 eq. | CC(C)([O-])C.[Na+]
reactant | HCl | 3M | Cl | ClH
catalyst | palladium acetate | 0.01 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-methoxy-2-(4-methylthiophenyl)naphthalene-1-ol | COC=1C=C2C=CC(=C(C2=CC1)O)C1=CC=C(C=C1)SC | C18H16O2S
